US05849217
(1) Preparation of 4-(2-benzyloxyethyl) phenyl boronic acid
3.8 g (13.0 mmol) of 4-(2-benzyloxyethyl) phenylbromide and 30 ml of dry THF were cooled to -80° C., and 9.4 ml of n-butyllithium (1.65M) was dripped to it. Stirring at the foregoing temperature was performed for 3 hours, and then mixture solution of 5.68 g (30.2 mmol) of triisopropoxyboron and 15 ml of dry THF was dripped, and stirring at room temperature was performed for 13 hours. After the reactions had been completed, 15 ml of 10% hydrochloric acid was added, and extraction with ethyl acetate was performed. After the extracted solution was dried, the solvent was removed by filtration. Then, refining was performed with a silica gel column chromatography (developing solvent: toluene/ethyl acetate=20/1) so that 3.21 g of 4-(2-benzyloxyethyl) phenyl boronic acid was obtained (yield 64%).

reactant | 4-(2-benzyloxyethyl) phenylbromide | 13.0 mmol, 3.8 g | C(C1=CC=CC=C1)OCCC1=CC=C(C=C1)Br | C15H15BrO
reactant | n-butyllithium | 1.65M, 9.4 ml | C(CCC)[Li]
reactant | triisopropoxyboron | 30.2 mmol, 5.68 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(2-benzyloxyethyl) phenyl boronic acid | yield 64% | C(C1=CC=CC=C1)OCCC1=CC=C(C=C1)B(O)O | C15H17BO3
